datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C:11](C)=[CH2:10].N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CCCC[Sn:63](CCCC)(CCCC)[CH2:62][C+:11](C)[CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].CO[C:65]1=[CH:64][CH:63]=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[CH:67]=[CH:66]1>>CC[O:33][C:31]([C:20]1([C:10]2=[N+:71](C)[CH:73]=[CH:72][N:61]2[C:62]2=[CH:63][CH:64]=[C:65](OC)[CH:66]=[CH:67]2)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1.O[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>O[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12"
"C1[CH:10]=[CH:11][CH:62]=[CH:63]1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2C[CH:63]=[CH:62][CH+:11]2)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C:11](=[NH+:12]C(=O)OCC2=CC=CC=C2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].[H:10][CH:11]1[CH:12]=[CH:13][CH:14]=[CH:15][CH:16]=[CH:17]1>>COC12C3C[CH:20]([H:10])C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+].[CH:11]1=[CH:12][CH:13]=[CH:14][CH:15]=[CH:16][CH+:17]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;20,21=21"
"C1=C[C:61]2=[C:62](C=C1)[NH:12][N:11]=[N:10]2.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([N:10]2[N:11]=[NH+:12][C:62]3=[C:61]2C=CC=C3)N2N=N[N:35]=[C:34]21 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>Cl[C:20]1([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](\C)[C:72](=[O:73])[O:83]CC)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CC[O:61][C:11]([C:10](C)([CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73]>>CC[O:33][C:22](=[CH:21][CH:20](C)[H:10])[O-:23].C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH:62]1CC[CH:10]=[CH:11]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2CC[CH:62]([Si:63](C)(C)C)[CH+:11]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
C[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:63]1=[C:62]([N:61]2[C:10]([CH:20]([C:31]3=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]3)[C:41]3=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]3)=[N+:71](C)[CH:73]=[CH:72]2)[C:67](C)=[CH:66][C:65](C)=[CH:64]1 10=20
C1=CC=C(CC2CCC[NH:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCCC2CC2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC[O:82][C:71]([C-:10](Cl)[C:61](=[O:62])[O:92]CC)=[O:72].C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10](Cl)([CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20;20,21=21"
"Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl.[H:10][BH3-:11]>>Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl.[BH3:11].[H:10][Cl:20] 10,11=10,20;20,21=21,22;22,23=23"
